US05021449
(±) 5-Carbomethoxy-N-[1-ethyl-2-pyrrolidinylmethyl]-3-methoxy-4-methylthiophene-2-carboxamide
The above compound was prepared by heating dimethyl-3-methoxy-4-methyl-2,5-thiophene dicarboxylate and (±)2-(aminomethyl)-1-ethyl-pyrrolidine at 170° under nitrogen atmosphere. After column chromatography, the title compound was obtained, as its fumarate salt, m.p. 155°-156° ex ethyl acetate.

reactant | dimethyl-3-methoxy-4-methyl-2,5-thiophene dicarboxylate | COC(=O)C=1SC(=C(C1OC)C)C(=O)OC | C10H12O5S
reactant | (±)2-(aminomethyl)-1-ethyl-pyrrolidine | NCC1N(CCC1)CC | C7H16N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (±) 5-Carbomethoxy-N-[1-ethyl-2-pyrrolidinylmethyl]-3-methoxy-4-methylthiophene-2-carboxamide | C(=O)(OC)C1=C(C(=C(S1)C(=O)NCC1N(CCC1)CC)OC)C | C16H24N2O4S
